US07368578B2
A mixture of 3-benzyloxy-1-phenyl-1H-pyrazole-4-carbaldehyde (2.50 g), 1,3-thiazolidine-2,4-dione (1.05 g), piperidine (0.15 g) and ethanol (80 mL) was heated under reflux for 1 hr. The reaction mixture was concentrated, and the obtained crystals were washed with ethanol to give (5Z)-5-[(3-benzyloxy-1-phenyl-1H-pyrazol-4-yl)methylene]-1,3-thiazolidine-2,4-dione as yellow crystals (2.97 g, yield 87%). Recrystallization from tetrahydrofuran-hexane gave yellow prism crystals. melting point: >300° C.

reactant | 3-benzyloxy-1-phenyl-1H-pyrazole-4-carbaldehyde | 2.50 g | C(C1=CC=CC=C1)OC1=NN(C=C1C=O)C1=CC=CC=C1 | C17H14N2O2
reactant | 1,3-thiazolidine-2,4-dione | 1.05 g | S1C(NC(C1)=O)=O | C3H3NO2S
reactant | piperidine | 0.15 g | N1CCCCC1 | C5H11N
solvent | ethanol | 80 mL | C(C)O | C2H6O
product | (5Z)-5-[(3-benzyloxy-1-phenyl-1H-pyrazol-4-yl)methylene]-1,3-thiazolidine-2,4-dione | 2.97 g, yield 87% | C(C1=CC=CC=C1)OC1=NN(C=C1\C=C/1\C(NC(S1)=O)=O)C1=CC=CC=C1 | C20H15N3O3S
